US06825170B2
Step B: 4-(2-Oxazolyl)benzaldehyde
To 2-(4-methylphenyl)oxazole (6.41 g, 40.3 mmol) and N-bromosuccinimide (14.7 g, 82.6 mmol) in carbon tetrachloride (300 mL) was added 2,2′-azobisisobutyronitrile (500 mg, 3.1 mmol) and the reaction mixture was heated at 100° C. for 12 h. The reaction mixture was cooled to 0° C., filtered through a fritted funnel, and concentrated in vacuo. To this crude reaction mixture was added 95% ethanol (300 mL) and silver nitrate (15.1 g, 88.8 mmol), and the reaction mixture was refluxed for 4 h, cooled to room temperature, filtered through a fritted funnel, and concentrated in vacuo. Purification by medium pressure liquid chromatography (SiO2, 10:1 hexanes/ethyl acetate) gave 880 mg (13%, 2 steps) of the title compound. MS 174 (M+H)+.

reactant | 2-(4-methylphenyl)oxazole | 40.3 mmol, 6.41 g | CC1=CC=C(C=C1)C=1OC=CN1 | C10H9NO
reactant | N-bromosuccinimide | 82.6 mmol, 14.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 3.1 mmol, 500 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | ethanol | 300 mL | C(C)O | C2H6O
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | silver nitrate | 88.8 mmol, 15.1 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-(2-Oxazolyl)benzaldehyde | O1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NO2
